US05294713
WORKING EXAMPLE 24 (S)-1-Carbamoylmethyl-2-oxopiperazine-3-acetic acid benzyl ester hydrochloride
(S)-3-Benzyloxycarbonylmethyl-2-oxopiperazine-1-acetic acid hydrochloride (7.5 g) and sodium hydrogencarbonate (4.2 g) were dissolved in a mixture of 50 ml of dioxane and 50 ml of water. To the solution was added at 0° C. 5.5 g of di-t-butyl bicarbonate, and the mixture was stirred vigorously for one hour. The reaction mixture was concentrated to half of its original volume, and washed with ether then there was added 30 ml of a 10% aqueous solution of potassium hydrogen sulfate, followed by extraction with methylene chloride. The extract solution was dried over anhydrous magnesium sulfate, which was then concentrated to give a crude product. The crude product was dissolved in 50 ml of dioxane. To the solution was added 2.6 g of N-hydroxysuccinimide, then 5.2 g of dicyclohexylcarbodiimide. The mixture was stirred for one hour at room temperature. Insolubles were filtered off. To the filtrate was added 10 ml of 25% aqueous ammonia, and the mixture was stirred vigorously for one hour. The reaction mixture was concentrated under reduced pressure. The concentrate was dissolved in methylene chloride, and the solution was washed with water. The methylene chloride layer was dried over anhydrous magnesium sulfate, then concentrated under reduced pressure to give an oily product. The oily product was dissolved in 2N HCl-dioxane, and the solution was stirred for one hour. The reaction mixture was subjected to evaporation to dryness to give a crude product, which was recrystallized from ethanol to afford 2.0 g of the title compound as colorless prisms, m.p. 201°-202° C.

reactant | (S)-3-Benzyloxycarbonylmethyl-2-oxopiperazine-1-acetic acid hydrochloride | 7.5 g | Cl.C(C1=CC=CC=C1)OC(=O)C[C@H]1C(N(CCN1)CC(=O)O)=O
reactant | sodium hydrogencarbonate | 4.2 g | C(O)([O-])=O.[Na+]
reactant | N-hydroxysuccinimide | 2.6 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 5.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | HCl dioxane | 2N | Cl.O1CCOCC1
product | (S)-1-Carbamoylmethyl-2-oxopiperazine-3-acetic acid benzyl ester hydrochloride | 2.0 g | Cl.C(C1=CC=CC=C1)OC(C[C@H]1C(N(CCN1)CC(N)=O)=O)=O | InChI=1S/C15H19N3O4.ClH/c16-13(19)9-18-7-6-17-12(15(18)21)8-14(20)22-10-11-4-2-1-3-5-11;/h1-5,12,17H,6-10H2,(H2,16,19);1H/t12-;/m0./s1
